US05258382
Preparation of 2-carboxymethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester:
A mixture of 2-benzyloxycarbonylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester (80.0 g) in dioxane (150 ml) was hydrogenated over 10% palladium-carbon (500 mg) at 40° C. After the calculated amount of hydrogen was absorbed, the catalyst was filtered off and the filtrate was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (48.7 g, 80.2%) as colorless crystals, mp 93°-94° C.

reactant | 2-benzyloxycarbonylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester | 80.0 g | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(=O)OCC1=CC=CC=C1)=O | C20H23NO6
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 2-carboxymethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester | 48.7 g, 80.2% | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(=O)O)=O | C13H17NO6
